US04788185
(43-2) 5-Methylthioimidazo[1,2-a]pyridine
Into 100 ml of dimethylformamide are suspended 5 g of 5-chloroimidazo[1,2-a]pyridine and 5 g of sodium methanethiolate and the mixture is stirred at 20° C. for 1 hour. The solvent is evaporated off under reduced pressure and the residue is dissolved in 200 ml of dichloromethane. The mixture is washed with aqueous saturated sodium chloride solution, dried over anhydrous magnesium sulfate and purified by silica-gel column chromatography to give 3 g of the above-identified compound as an oil.

reactant | 5-chloroimidazo[1,2-a]pyridine | 5 g | ClC1=CC=CC=2N1C=CN2 | C7H5ClN2
reactant | sodium methanethiolate | 5 g | C[S-].[Na+]
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 5-Methylthioimidazo[1,2-a]pyridine | 3 g | CSC1=CC=CC=2N1C=CN2 | C8H8N2S
